US08242143B2
2-Chloro-5-iodopyridine (40 mmol, 10.0 g), 2-methyl-4-[(trimethylsilyl)ethynyl]-1,3-thiazole (40 mmol, 7.8 g), dichlorobis(triphenylphosphine)palladium(II) (2 mmol, 1.4 g), copper(I) iodide (4 mmol, 760 mg) and triethylamine (200 mmol, 28 mL) were added to deoxygenated DMF (200 mL) at room temperature. The reaction was then warmed to 60° C. and tetrabutylammonium fluoride (40 mmol, 40 mL of 1.0 M solution in THF) was added dropwise via syringe. Stirring continued for 2.5 hrs and the reaction contents were then poured in to a separatory funnel and partitioned with 1:1 hexanes:EtOAc (1000 mL) and water (500 mL). The organic layer was then washed with 5 portions of 5% NaCl (250 mL each). The combined aqueous layers were back-extracted with 1:1 hexanes:EtOAc (500 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was chromatographed on SiO2, eluting with 1:1 EtOAc:hexanes to afford 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine as a tan solid. 1H-NMR (CDCl3, 300 MHz) δ 8.57 (s, 1H), 7.77 (d, 1H), 7.45 (s, 1H), 7.32 (d, 1H), 2.75 (s, 3H). MS (ESI) 235.2 (M+H+).

reactant | 2-Chloro-5-iodopyridine | 40 mmol, 10.0 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | 2-methyl-4-[(trimethylsilyl)ethynyl]-1,3-thiazole | 40 mmol, 7.8 g | CC=1SC=C(N1)C#C[Si](C)(C)C | C9H13NSSi
reactant | triethylamine | 200 mmol, 28 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 40 mmol, 1.0 M, 40 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 2 mmol, 1.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 4 mmol, 760 mg | [Cu]I
product | 2-chloro-5-[(2-methyl-1,3-thiazol-4-yl)ethynyl]pyridine | ClC1=NC=C(C=C1)C#CC=1N=C(SC1)C | C11H7ClN2S
